US08859555B2
To a cooled solution of tert-butyl(R)-1-(2-((trans)-2-(6-(benzyloxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopropylamino)ethyl)pyrrolidin-3-ylcarbamate (400 mg, 0.67 mmol) in dioxane (8 mL) at 0° C., HCl in 1,4dioxane (4 mL) was added and stirred for 16 h at RT. The progress of the reaction was monitored by TLC. After completion, the solvent was evaporated, residue was triturated with Et2O to get (R)-1-(2-((trans)-2-(6-(benzyloxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopropylamino)ethyl)pyrrolidin-3-amine dihydrochloride (380 mg, 95%) as a white solid.

reactant | tert-butyl(R)-1-(2-((trans)-2-(6-(benzyloxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopropylamino)ethyl)pyrrolidin-3-ylcarbamate | 0.67 mmol, 400 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1C1=CC=C(C=C1)C(F)(F)F)[C@H]1[C@@H](C1)NCCN1C[C@@H](CC1)NC(OC(C)(C)C)=O | C34H40F3N3O3
reactant | HCl | Cl | ClH
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | 1,4dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | (R)-1-(2-((trans)-2-(6-(benzyloxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopropylamino)ethyl)pyrrolidin-3-amine dihydrochloride | 380 mg, 95% | Cl.Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1C1=CC=C(C=C1)C(F)(F)F)[C@H]1[C@@H](C1)NCCN1C[C@@H](CC1)N | InChI=1S/C29H32F3N3O.2ClH/c30-29(31,32)23-9-6-21(7-10-23)26-16-22(8-11-28(26)36-19-20-4-2-1-3-5-20)25-17-27(25)34-13-15-35-14-12-24(33)18-35;;/h1-11,16,24-25,27,34H,12-15,17-19,33H2;2*1H/t24-,25+,27-;;/m1../s1
